US08426449B2
Step 1: [3-(2-{[Ethyl-(4-m-tolylamino-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
[3-(2-{[(4-Bromo-benzenesulfonyl)-ethyl-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (0.183 g, 0.31 mmol), m-toluidine (0.04 mL, 0.38 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.009 g, 0.02 mmol) were combined in 1,4-dioxane (3.6 mL). Cesium carbonate (0.505 g, 1.55 mmol) and tris(dibenzylideneacetone)dipalladium (0) (0.028 g, 0.03 mmol) were added, and the mixture was purged with N2 for 15 minutes and then stirred at 70° C. overnight under N2. Once no starting material was seen by analytical LCMS, the mixture was filtered through Celite. The filter cake was washed with EtOAc, and the filtrate was concentrated and purified by silica gel chromatography (10-30% EtOAc in hexanes) to give the title compound.

reactant | [3-(2-{[(4-Bromo-benzenesulfonyl)-ethyl-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 0.31 mmol, 0.183 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(CC)S(=O)(=O)C1=CC=C(C=C1)Br)=O | C25H23BrF3NO5S
reactant | m-toluidine | 0.38 mmol, 0.04 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.02 mmol, 0.009 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cesium carbonate | 1.55 mmol, 0.505 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol, 0.028 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [3-(2-{[Ethyl-(4-m-tolylamino-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(S(=O)(=O)C1=CC=C(C=C1)NC=1C=C(C=CC1)C)CC)=O | C32H31F3N2O5S
